US04501605
Concentrated hydrochloric acid (1.0 ml) was added to a stirred suspension of acetaldehyde 4-methyl-2-(5-trifluoromethyl-1,3,4-thiadiazol-2-yl)semicarbazone in water (200 ml). The mixture was stirred at room temperature for 3 days, and was filtered. The solid was dried and crystallised from ethyl acetate to give 4-methyl-2-(5-trifluoromethyl-1,3,4-thiadiazol-2-yl)semicarbazide (10.0 g) as a white solid, mp 181°-182° C.

reactant | hydrochloric acid | 1.0 ml | Cl | ClH
reactant | acetaldehyde 4-methyl-2-(5-trifluoromethyl-1,3,4-thiadiazol-2-yl)semicarbazone | CNC(N(N=CC)C=1SC(=NN1)C(F)(F)F)=O | C7H8F3N5OS
solvent | water | 200 ml | O | H2O
product | 4-methyl-2-(5-trifluoromethyl-1,3,4-thiadiazol-2-yl)semicarbazide | 10.0 g | CNC(N(N)C=1SC(=NN1)C(F)(F)F)=O | C5H6F3N5OS
